US07351741B2
A one liter, four neck round bottom flask was equipped with an overhead stirrer, reflux condenser, thermocouple temperature read out, and heating mantle. The following reaction was run under a dry nitrogen atmosphere. Isopropanol (400 mL) and 4-[(4-chloro-2-hydroxy-benzoyl)amino]butanoic acid (25.0 g, 0.09 mol) were charged to the reactor and stirring was started. The reaction slurry was heated to 50° C. until a hazy brown solution was obtained. The warm solution was filtered through a warm pressure filter dressed with Whatman #1 paper into a clean 1 L reactor. The clear yellow filtrate was heated to 62° C. while stirring. Sodium hydroxide solution (50% aqueous; 7.2 g, 0.09 mol) was charged to the reactor while maintaining vigorous agitation. After the base addition was complete, the reactor was heated to reflux (72° C.) and then allowed to cool slowly to ambient temperature. The product was isolated by vacuum filtration through a sintered glass funnel and vacuum dried at 50° C. for 24 hours to give 23.16 g of sodium 4-[(2-hydroxybenzoyl)amino]butanoate as an off-white solid. The yield was 92%.

reactant | 4-[(4-chloro-2-hydroxy-benzoyl)amino]butanoic acid | 0.09 mol, 25.0 g | ClC1=CC(=C(C(=O)NCCCC(=O)O)C=C1)O | C11H12ClNO4
reactant | Sodium hydroxide | 0.09 mol, 7.2 g | [OH-].[Na+]
solvent | Isopropanol | 400 mL | C(C)(C)O | C3H8O
product | sodium 4-[(2-hydroxybenzoyl)amino]butanoate | 23.16 g, yield was 92% | OC1=C(C(=O)NCCCC(=O)[O-])C=CC=C1.[Na+] | InChI=1S/C11H13NO4.Na/c13-9-5-2-1-4-8(9)11(16)12-7-3-6-10(14)15;/h1-2,4-5,13H,3,6-7H2,(H,12,16)(H,14,15);/q;+1/p-1
